data/oMe_Silver.jsonl
{"reaction_id": "NR-009_1-CC(C)C_2-C2CCCCC2_3-c2ccccc2","name": "Baker-Venkataraman rearrangement","level": "medium","reactants_smiles": ["C(CC(C)C)(C2CCCCC2)C(=O)c1ccccc1OC(=O)c2ccccc2"],"products_smiles": ["c2ccccc2C(=O)C(CC(C)C)(C2CCCCC2)C(=O)c1ccccc1O"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](CC(C)C)(C2CCCCC2)C(=O)c1ccccc1OC(=O)c2ccccc2","rationale": "The base abstracts the acidic α-proton next to the ketone, as the resulting enolate is resonance-stabilized by the adjacent carbonyl and aromatic ring."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c12c(cccc1)OC([O-])(c2ccccc2)C(CC(C)C)(C2CCCCC2)C2=O","rationale": "The nucleophilic enolate oxygen attacks the electrophilic ester carbonyl, favored by intramolecular proximity and the polarization of the C=O bond."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c2ccccc2C(=O)C(CC(C)C)(C2CCCCC2)C(=O)c1ccccc1[O-]","rationale": "The alkoxide intermediate expels the phenoxide leaving group, driven by the stability of phenoxide and formation of a conjugated 1,3-diketone system."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c2ccccc2C(=O)C(CC(C)C)(C2CCCCC2)C(=O)c1ccccc1O","rationale": "The phenoxide anion is protonated under the reaction conditions to yield the neutral phenol product, favored by the phenol's resonance stabilization."}],"description": "Under basic conditions, the α-proton adjacent to the ketone is deprotonated to form an enolate, which attacks the ester carbonyl intramolecularly. This rearranges via acyl transfer to yield the 1,3-diketone phenol product after elimination and protonation."}
{"reaction_id": "NR-117_1-c1ccc(F)cc1_2-C(C)(C)C_3-Cl_4-c1ccc(C(F)(F)F)cc1_5-c1ccccc1","name": "Johnson-Claisen Rearrangement","level": "medium","reactants_smiles": ["C(=C(Cl)C(C)(C)C)(c1ccc(F)cc1)C(c1ccc(C(F)(F)F)cc1)(c1ccccc1)O","C(C)(OC)(OC)OC"],"products_smiles": ["C(C(=O)OC)C(c1ccc(C(F)(F)F)cc1)(c1ccccc1)C(Cl)=C(c1ccc(F)cc1)C(C)(C)C"],"conditions": "Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(OC)(OC)[OH+]C","rationale": "Acid protonates the orthoester oxygen, increasing the electrophilicity of the adjacent carbon via inductive withdrawal and making it more susceptible to C–O bond cleavage."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[C+](C)(OC)(OC)","rationale": "Heterolytic cleavage occurs because the protonated oxygen stabilizes the leaving group, generating a carbocation stabilized by adjacent alkoxy groups through resonance donation."},{"step": 3,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "[OH+](C(c1ccc(C(F)(F)F)cc1)(c1ccccc1)C(Cl)=C(c1ccc(F)cc1)C(C)(C)C)C(C)(OC)OC","rationale": "The allylic alcohol oxygen attacks the carbocation, favored by the strong electrophilicity of the cation and the nucleophilicity of the alcohol under acidic conditions."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O(C(c1ccc(C(F)(F)F)cc1)(c1ccccc1)C(Cl)=C(c1ccc(F)cc1)C(C)(C)C)C(C)([OH+]C)OC","rationale": "Proton transfer from the newly bound alcohol oxygen to an adjacent alkoxy group facilitates further activation and rearrangement by generating a better leaving group."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=C(OC)C)OC(c1ccc(C(F)(F)F)cc1)(c1ccccc1)C(Cl)=C(c1ccc(F)cc1)C(C)(C)C","rationale": "Another proton transfer generates the enol ether intermediate, driven by the stability of the conjugated alkene–ether system and relief of positive charge."},{"step": 6,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(C(=O)OC)C(c1ccc(C(F)(F)F)cc1)(c1ccccc1)C(Cl)=C(c1ccc(F)cc1)C(C)(C)C","rationale": "The [3,3]-sigmatropic rearrangement proceeds thermally due to favorable orbital overlap, forming a more stable carbonyl-containing product via conjugation and bond reorganization."}],"description": "Under acidic conditions, the Johnson–Claisen rearrangement proceeds via protonation and activation of the orthoester, generating an electrophilic species that reacts with the allylic alcohol. Subsequent proton transfers set up an enol ether intermediate, which undergoes a [3,3]-sigmatropic rearrangement to yield the γ,δ-unsaturated ester."}
